US07985755B2
Step 2: [4-(3-Chlorobenzyl)cyclohexyl]methanol
4-(3-Chlorobenzyl)cyclohexanecarboxylic acid (550 mg; 2.2 mmol) was cooled to 0° C. in 5 mL of anhydrous tetrahydrofuran under nitrogen flow, and BH3 THF was added over 5 minutes. Mixture was warmed to room temperature. After 3.5 hours, mixture was cooled to 0° C. and quenched with slow additions of sat. NH4Cl. Mixture was stirred for 20 minutes and water was added to dissolve precipitates. Mixture was extracted 3×20 mL with ethyl acetate, and combined organics were washed with brine and dried over MgSO4. Material was purified via flash chromatography using 1-5% methanol in dichloromethane gradient to obtained 173 mgs of title compound. (33% yield)

reactant | 4-(3-Chlorobenzyl)cyclohexanecarboxylic acid | 2.2 mmol, 550 mg | ClC=1C=C(CC2CCC(CC2)C(=O)O)C=CC1 | C14H17ClO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | [4-(3-Chlorobenzyl)cyclohexyl]methanol | 173 mgs, 33% yield | ClC=1C=C(CC2CCC(CC2)CO)C=CC1 | C14H19ClO
